US05658491
Preparation of 5-Hexyloxy-2-[4-(3-(2-(2-(trifluoromethoxy)tetrafluoroethoxy)-2,2-difluoroethoxy)propoxy)phenyl]pyrimidine
The title compound was prepared essentially as in Example 1 by combining 3-(2-(2-(trifluoromethoxy)tetrafluoroethoxy)-2,2-difluoroethoxy)-1-chloropropane (4.5 g, 11.7 mmol; prepared by combining 1-bromo-3-chloropropane with 3-(2-(2-(trifluoromethoxy) tetrafluoroethoxy)-2,2-difluoroethanol) with 5-hexyloxy-2-(4-hydroxyphenyl)pyrimidine (3.0 g, 11.0 mmol). The resulting product was isolated by addition of water (50 mL) to the reaction mixture, followed by filtration and recrystallization from ethanol. The recrystallized precipitate was dried at about 130° C., and the resulting product was further purified by distillation using a Kugelrohr apparatus (b.p. 180°-183° C. at 0.1 torr; yield of 3.9 g).

reactant | 3-(2-(2-(trifluoromethoxy)tetrafluoroethoxy)-2,2-difluoroethoxy)-1-chloropropane | FC(OC(C(OC(COCCCCl)(F)F)(F)F)(F)F)(F)F | C8H8ClF9O3
reactant | 1-bromo-3-chloropropane | BrCCCCl | C3H6BrCl
reactant | 5-hexyloxy-2-(4-hydroxyphenyl)pyrimidine | 11.0 mmol, 3.0 g | C(CCCCC)OC=1C=NC(=NC1)C1=CC=C(C=C1)O | C16H20N2O2
solvent | water | 50 mL | O | H2O
product | 5-Hexyloxy-2-[4-(3-(2-(2-(trifluoromethoxy)tetrafluoroethoxy)-2,2-difluoroethoxy)propoxy)phenyl]pyrimidine | C(CCCCC)OC=1C=NC(=NC1)C1=CC=C(C=C1)OCCCOCC(F)(F)OC(C(OC(F)(F)F)(F)F)(F)F | C24H27F9N2O5
